US07994325B2
Step A: Benzyl 6-(2-chlorophenyl)-1-(cyclopropylmethyl)-2-oxo-1,2-dihydropyridin-3-ylcarbamate
Cesium carbonate (1.07 g, 3.30 mmol) was added to a solution of benzyl 6-(2-chlorophenyl)-2-oxo-1,2-dihydropyridin-3-ylcarbamate (J. Med. Chem. 1994, 37, 3303-3312) (585 mg, 1.65 mmol) and cyclopropylmethyl bromide (0.19 mL, 1.98 mmol) in N,N-dimethylformamide (5 mL). After 4 h, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water (2×), saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (hexanes→30% ethyl acetate/hexanes) gave the title compound (258 mg). MS 409.0 (M+1).

reactant | Cesium carbonate | 3.30 mmol, 1.07 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl 6-(2-chlorophenyl)-2-oxo-1,2-dihydropyridin-3-ylcarbamate | 1.65 mmol, 585 mg | ClC1=C(C=CC=C1)C1=CC=C(C(N1)=O)NC(OCC1=CC=CC=C1)=O | C19H15ClN2O3
reactant | cyclopropylmethyl bromide | 1.98 mmol, 0.19 mL | C1(CC1)CBr | C4H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Benzyl 6-(2-chlorophenyl)-1-(cyclopropylmethyl)-2-oxo-1,2-dihydropyridin-3-ylcarbamate | 258 mg | ClC1=C(C=CC=C1)C1=CC=C(C(N1CC1CC1)=O)NC(OCC1=CC=CC=C1)=O | C23H21ClN2O3
